US04012413
In the manner given in Example 22, 1-[2-(methylamino)-propyl]-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine is treated successively with acetaldehyde and sodium cyanoborohydride to give 1-[2-N-ethyl-N-methylamino)propyl]-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1-[2-(methylamino)-propyl]-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | CNC(CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)C | C20H19Cl2N5
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=C(C=CC=C3)Cl)C1 | C16H10Cl2N4
